US06492348B1
(3aS,4S,6R,6aR)-6-[2-Chloro-6-(tetrahydro-pyran-4-ylamino)-purin-9-yl]-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid N′-(2,2-dimethyl-propionyl)-hydrazide
Diisopropylethylamine (0.487 ml) was added to a stirred solution of (3aS,4S,6R,6aR)-6-[2-chloro-6-(tetrahydro-pyran-4-ylamino)-purin-9-yl]-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid (350 mg) in dry tetrahydrofuran (8 ml) at 0° C. under nitrogen. After 5 min pivaloyl chloride (0.098 ml) was added and the mixture was stirred at 0° C. for 2.5 h. 2,2-Dimethyl-propionic acid hydrazide was added in tetrahydrofuran (2 ml) at 0°, and stirring was continued at 0-22° C. overnight. The mixture was concentrated in vacuo and partitioned between ethyl acetate (2×30 ml) and saturated aqueous sodium bicarbonate (30 ml). The organic layers were washed with brine (50 ml), dried (MgSO4) and evaporated in vacuo. The residue was azeotroped with dichloromethane (10 ml) to give the title compound as a cream solid (357 mg).

reactant | Diisopropylethylamine | 0.487 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (3aS,4S,6R,6aR)-6-[2-chloro-6-(tetrahydro-pyran-4-ylamino)-purin-9-yl]-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid | 350 mg | ClC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C(=O)O)NC2CCOCC2 | C18H22ClN5O6
reactant | pivaloyl chloride | 0.098 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 2,2-Dimethyl-propionic acid hydrazide | CC(C(=O)NN)(C)C | C5H12N2O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (3aS,4S,6R,6aR)-6-[2-Chloro-6-(tetrahydro-pyran-4-ylamino)-purin-9-yl]-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxole-4-carboxylic acid N′-(2,2-dimethyl-propionyl)-hydrazide | 357 mg | CC(C(=O)NNC(=O)[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC(=NC(=C1N=C2)NC2CCOCC2)Cl)(C)C | C23H32ClN7O6
